US04723010
A mixture of 1,1,1-triethoxyethane (97.3 g) and N-chlorosuccinimide (88.1 g) in carbon tetrachloride (600 ml) was warmed to 40° C. and then irradiated with an ultraviolet lamp. The reaction became exothermic and then subsided upon completion of the reaction. The precipitated succinimide byproduct was filtered off and the filtrate was concentrated to remove carbon tetrachloride. The residual liquid was distilled to obtain pure 2-chloro-1,1,1-triethoxyethane (91.0 g; b.p. 91° C./25 mm).

reactant | 1,1,1-triethoxyethane | 97.3 g | C(C)OC(C)(OCC)OCC | C8H18O3
reactant | N-chlorosuccinimide | 88.1 g | ClN1C(CCC1=O)=O | C4H4ClNO2
solvent | carbon tetrachloride | 600 ml | C(Cl)(Cl)(Cl)Cl | CCl4
product | 2-chloro-1,1,1-triethoxyethane | 91.0 g | ClCC(OCC)(OCC)OCC | C8H17ClO3
